US05037827
(3) Synthesis of 6.12-dioxaheptadecylamine
0.15 g of lithium aluminum hydride was added to a solution of 1 g of 6,12-dioxaheptadecanenitrile prepared in the above-described step (2) in 20 ml of tetrahydrofuran and the mixture was stirred at room temperature for 1.5 h. A saturated aqueous solution of sodium sulfate was added thereto and the obtained mixture was filtered through a Celite filter (eluent: chloroform/methanol=9/1) to obtain 0.3 g of the intended product.

reactant | lithium aluminum hydride | 0.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6,12-dioxaheptadecanenitrile | 1 g | C(CCCCOCCCCCOCCCCC)#N | C15H29NO2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6.12-dioxaheptadecylamine | 0.3 g | C(CCCCOCCCCCOCCCCC)N | C15H33NO2
